US08198269B2
(2) Synthesis of 3,3a,4,5-tetrahydro-7H-pyrano[3,4-c]isoxazole
A 5% sodium hypochlorite solution (122 ml) was added dropwise to a solution of 3-butenyloxyacetaldehyde oxime (5.30 g) in dichloromethane (530 ml) under ice-cooling. After stirring at the same temperature for two hours, sodium thiosulfate was added. The aqueous layer was extracted with dichloromethane. The organic layers were combined and dried over anhydrous magnesium sulfate. The solvent was evaporated under reduced pressure and the residue was purified by silica gel column chromatography to obtain the title compound (4.15 g).

reactant | sodium hypochlorite | 122 ml | Cl[O-].[Na+]
reactant | 3-butenyloxyacetaldehyde oxime | 5.30 g | C(CC=C)OCC=NO | C6H11NO2
reactant | sodium thiosulfate | S(=S)(=O)([O-])[O-].[Na+].[Na+]
solvent | dichloromethane | 530 ml | ClCCl | CH2Cl2
product | 3,3a,4,5-tetrahydro-7H-pyrano[3,4-c]isoxazole | 4.15 g | N=1OCC2C1COCC2 | C6H9NO2
